US08685958B2
(3-(4-(6-oxa-2-azaspiro[3.4]octan-2-ylmethyl)phenoxy)azetidin-1-yl)(5-phenyl-1,3,4-oxadiazol-2-yl)methanone
To a solution of 4-(1-(5-phenyl-1,3,4-oxadiazole-2-carbonyl)azetidin-3-yloxy)benzaldehyde (70 mg, 0.20 mmol) in dichloromethane (2 mL) was added 6-oxa-2-azaspiro[3.4]octane hydrochloride (56 mg, 0.37 mmol) and triethylamine (0.100 mL, 0.72 mmol). After stirring at ambient temperature for 30 minutes, sodium triacetoxyhydroborate (95 mg, 0.45 mmol) was added. Stirring was continued at ambient temperature overnight, after which NaHCO3 (aq, sat, 5 ml) was added. The phases were separated with the aid of a phase separator. The aqueous phase was extracted twice with dichloromethane and dried using a phase separator. The combined organic phases were concentrated in vacuo to afford a colourless residue weighing 92 mg.

reactant | 4-(1-(5-phenyl-1,3,4-oxadiazole-2-carbonyl)azetidin-3-yloxy)benzaldehyde | 0.20 mmol, 70 mg | C1(=CC=CC=C1)C1=NN=C(O1)C(=O)N1CC(C1)OC1=CC=C(C=O)C=C1 | C19H15N3O4
reactant | 6-oxa-2-azaspiro[3.4]octane hydrochloride | 0.37 mmol, 56 mg | Cl.C1NCC12COCC2
reactant | triethylamine | 0.72 mmol, 0.100 mL | C(C)N(CC)CC | C6H15N
reactant | sodium | [Na] | Na
reactant | NaHCO3 | 5 ml | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | (3-(4-(6-oxa-2-azaspiro[3.4]octan-2-ylmethyl)phenoxy)azetidin-1-yl)(5-phenyl-1,3,4-oxadiazol-2-yl)methanone | C1N(CC12COCC2)CC2=CC=C(OC1CN(C1)C(=O)C=1OC(=NN1)C1=CC=CC=C1)C=C2 | C25H26N4O4
